US07772286B2
Acryloyl-hexanoic-acid-Con A
Following the procedure of Example 12, Con A was reacted with 6-[(acryloyl)amino]hexanoic acid, succinimidyl ester for 5 min. HPLC analysis indicated >95% conversion of Con A. MALDI-MS analysis showed that 3 to 11 acrylic units were covalently bond to Con A via a hexanoic acid spacer.

reactant | 6-[(acryloyl)amino]hexanoic acid, succinimidyl ester | C(C=C)(=O)NCCCCCC(=O)ON1C(CCC1=O)=O | C13H18N2O5
reactant | hexanoic acid | C(CCCCC)(=O)O | C6H12O2
product | Acryloyl-hexanoic-acid | C(C=C)(=O)C(C(=O)O)CCCC | C9H14O3
